US07074800B1
Using an analogous procedure to that described for Example 121, 4-chloro-6-methoxy-7-(3-pyrrolidinopropoxy)quinazoline (150 mg, 0.47 mmol), (prepared as described for the starting material in Example 9), was reacted with 6-hydroxy-2-methylindole (83 mg, 0.56 mol), (Eur. J. Med. Chem. 1975, 10, 187), to give 6-methoxy-4-(2-methylindol-6yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (170 mg, 85%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidinopropoxy)quinazoline | 0.47 mmol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 6-hydroxy-2-methylindole | 0.56 mol, 83 mg | OC1=CC=C2C=C(NC2=C1)C | C9H9NO
product | 6-methoxy-4-(2-methylindol-6yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 170 mg, 85% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC1=CC=C2C=C(NC2=C1)C | C25H28N4O3
